Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
hypotension, tachycardia, and hyperkalemia
 
Major Surgical or Invasive Procedure:
Hemodialysis
 
History of Present Illness:
___ male w/ h/o ESRD on HD, Afib on coumadin, HTN, CHF w/ EF 
48% p/w hypotension & tachycardia.  Per caretaker, pt had watery 
non-bloody stool around 630am today followed by SBP 150s 
(baseline 120s).  Caretaker gave pt AM meds and breakfast; 
repeat BP was concerning for SBP in ___.  No change in MS.  ___ 
was scheduled for dialysis today, caretakers brought him to ED 
instead.  In ED, afebrile, HR 115-122, afib + RVR, BPs 
102-120/80-86, RR ___, POx 90-96% on 2L NC.  Received vanc & 
cefepime, zofran, albuterol/ bicarb/ d50/ insulin for K+ 7.3. 
Placed R fem CVL.  CXR unchanged from ___: RLL pleural 
effusions, no consolidations.  Of note, recent 2-day 
hospitalization (discharged ___ for generalized weakness, 
thought to be due to hypovolemia or excessive neomycin bladder 
dwells; pt discharged feeling at baseline.  Hospitalization 
notable for hyperkalemia to 7.1 and peaked T-waves on EKG with 
an increased in IVCD, resolved with 1 dose of kayexelate & 2 
rounds of HD. Later it was learned that he had consumed a large 
meal of Borscht soup which is rich in potassium.

Pertinent labs: 
-K+ elevated to 7.3
-lactate 1.8
-trop 0.09 x 2
-Dig level 0.2

136 | 98 |67    
---------------<172
>10 | 23 | 7.6 

     12.2
11.0 >--< 184
     38.4

On arrival to the MICU,  HR 105-115 | BP 120/84 | 99% on 2L NC.  
Pt somnolent but caretaker states pt gets fatigued easily and he 
is currently close to baseline.  No signs of dyspnea or 
tachpnea, comfortable on NC.  Responsive to questions.  CV 
tachy, irreg, no m/r/g.  LCTAB, no wheezes/rales/rhonchi.  Abd 
s/nt/nd.  LUE AVF intact.
 
Past Medical History:
T2DM - now resolved s/p weight loss, A1c<5% in ___, not on 
treatment
ESRD- most likely multifactorial from hypertensive and 
obstructive nephropathy. On dialysis since ___.  
Atrial fibrillation- Pt is anticoagulated on coumadin.  
Hypertension  
CHF outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___.  
Obesity  
Gout  
PVD  
Anemia of chronic disease- Secondary to renal dysfunction.  
Sleep apnea  
Autonomic dysfunction, remitted (no longer on midodrine and 
fludrocort); persistent volume-sensitive BP regulation  

 
Social History:
___
___ History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
ADMISSION EXAM: 
Vitals: HR 105-115 | BP 120/84 | 99% on 2L NC 
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley.    
Ext- cold, 2+ pulses, no clubbing, cyanosis or edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE EXAM: 
Vitals- T 97.6, HR 81, BP 106/50, RR 24, 92% on 1L  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused. Left heel with small ulcer.
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
___ 05:40PM BLOOD WBC-9.5 RBC-3.56* Hgb-10.8* Hct-33.7* 
MCV-95 MCH-30.3 MCHC-32.1 RDW-15.7* Plt ___
___ 07:39AM BLOOD Glucose-90 UreaN-26* Creat-4.2*# Na-140 
K-4.2 Cl-98 HCO3-31 AnGap-15
___ 05:40PM BLOOD ___ PTT-39.5* ___
___ 05:54PM BLOOD ___ PTT-44.8* ___
___ 04:40AM BLOOD ___ PTT-39.1* ___
___ 07:39AM BLOOD ___ PTT-36.7* ___

IMAGING: 
___ CXR: Moderate right pleural effusion similar in appearance 
to prior study with adjacent right base consolidation likely 
compressive atelectasis however infection cannot be excluded 
given the appropriate clinical circumstance. 

___ Left Foot X-ray: 
1.  Correlation with the direct site of ulceration is required 
for full 
assessment. 
2.  Pseudarthrosis of the first proximal phalanx with suggestion 
of 
subcutaneous lucency in this location, seen only on the lateral 
view. 
3.  Small avulsion fracture at the site of abnormally increased 
sclerosis in the posterior calcaneus.  

___ Left Foot MRI:
Soft tissue edema and irregularity posterior to the calcaneus 
with associated bone marrow edema of the posterior calcaneus.  
These findings can be seen in the setting of osteomyelitis, 
amongst other entities.  Given the soft tissue thickening and 
defect along the posterior heel, osteomyelitis is suspected. 

 

 
Brief Hospital Course:
___ male w/ h/o ESRD on HD, Afib on coumadin, HTN, CHF w/ EF 
48% p/w labile BPs & tachycardia. 

ACTIVE ISSUES: 
# ? Osteomyelitis
Per wound care, ulcer has increased in size, depth, and 
severity. MRI showed concern for osteomyelitis. Debrided by 
podiatry and sent bone fragment for culture. ID consulted and 
recommended 6 weeks of vancomycin and ceftazidime dosed at HD 3x 
per week.  If culture of bones identifies an organisms, coverage 
may be narrow per ID recommendations.

#Hyperkalemia: 
HD dependent patient presented with hyperkalemia to 7.3 with 
peaked T-waves on EKG. Pt had a pint of Borscht night prior to 
admission and skipped AM HD, both of which could have 
contributed to the hyperK. Renal team consulted, patient 
underwent HD. K post-dialysis 5.2. 

#Hypotension: 
Pt has hx persistent with volume-sensitive BP regulation 
possibly secondary to hx autonomic dysfunction (no longer on 
midodrine & fludrocort). Supposedly hypotensive prior to 
admission, but normotensive in ED and during hospital stay. 
Hypotension could be ___ infection, most likely urinary, 
pneumonia highly unlikely.  Lactate was 1.8.   Bladder empty on 
scan so unable to obtain urine for UA.  Straight cath w/ 
Neomycin-Polymyxin wash Q48H and send UA, UCx when able. 
Received vanc/ cefepime in ED. Received 2g cefepime in ED, HD 
dosing 250mg qday.  Hold cefepime for now.

#ESRD: HD since ___. LUE AVF s/p operative repair for AVF 
aneurysm ___. Patient recently admitted with UTI (UCx no 
growth)for which completed course of ceftaz on ___ and he 
continues to get neomycin bladder flush and dwell q2 days. 
Hospitalized with E. coli UTI in ___. Continued home 
Finasteride 5 mg PO DAILY for urinary retention

#Afib w/ RVR: INR 1.9 on admission, continued home coumadin. 
Continued home Metoprolol Succinate XL 150 mg PO DAILY. 

#Respiratory distress: 95% on 2L NC.  No tachypnea or dyspnea.  
CXR unchanged from ___, no overwhelming signs of infection or 
volume overload. Continue home Furosemide 80 mg PO 4X/WEEK 
(___).  

CHRONIC ISSUES: 
#HTN: currently normotensive. Continued home metoprolol, hold if 
SBP<100

#CHF: Echo in ___ showed EF 48%.  No evidence of volume 
overload.  Denies SOB.  continued home Furosemide 80 mg PO 
4X/WEEK (___) 
  
#T2DM: A1c<5% in ___, not on treatment

#anemia: most likely anemia of chronic disease secondary to 
renal dysfunction.  Currently ___ increased from baseline, most 
likely due to hemoconcentration.  

#gout:continued Allopurinol ___ mg PO DAILY 

#hypothyroidism: most recent TSH 6.0 on ___. continued 
Levothyroxine Sodium 100 mcg PO DAILY 

TRANSITIONAL ISSUES
- cultures are pending on bone biopsy and may be needed for 
narrowing of osteomyelitis coverage. Team and attending 
physician contacted dialysis to relate need for Abx and vanco 
trough levels at dialysis.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Cinacalcet 30 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
___ 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
hold for sbp<100 and HR < 60 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Sucralfate 1 gm PO TID 
12. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
13. Allopurinol ___ mg PO DAILY 
14. Warfarin 2 mg PO QOD 
15. Warfarin 3 mg PO QOD 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Sucralfate 1 gm PO TID 
12. Warfarin 2 mg PO QOD 
13. Warfarin 3 mg PO QOD 
14. Neomycin-Polymyxin B GU 1 mL ___ Q48H 
15. Docusate Sodium 100 mg PO BID 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. CefTAZidime 1 g IV IV HD PROTOCOL 
for 6 weeks or per ID recommendations 
18. Vancomycin 1000 mg IV HD PROTOCOL 
for 6 weeks or per ID recommendations 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD on HD
Left heel ulcer
Hyperkalemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for elevated potassium and low 
blood pressures. You underwent dialysis with improvement. You 
also underwent an MRI for the ulcer on your foot which was 
concerning for an infection. You should continue with the wound 
care you have been having.  You will also need antibiotics while 
at dialysis. 
 
Followup Instructions:
___